US04563476
A solution of 6-methoxy-3,4-dihydrobenzopyran-5-carboxaldehyde (30.00 g, 156 mmol) in dry methylene chloride (625 mL) was cooled to an internal temperature of -67°. A solution of boron tribromide (1M in methylene chloride, 67.5 mL, 67.5 mmol) was added dropwise. The cooling bath was removed and the mixture allowed to stir under nitrogen for three hours. The reaction was then quenched by the dropwise addition of methanol (75 mL) and the resulting mixture poured into satureated aqueous sodium chloride (1200 mL). The layers were separated and the organic extract washed with saturated sodium chloride (600 mL), dried (Na2SO4) and concentrated. Purification by preparative HPLC (Waters Prep 500, 9:1 hexane: ethyl acetate as eluant) afforded 6-hydroxy-3,4-dihydrobenzopyran-5 -carboxaldehyde (22.46 g, 80.8%), m.p. 93-95.

reactant | 6-methoxy-3,4-dihydrobenzopyran-5-carboxaldehyde | 156 mmol, 30.00 g | COC1=CC=C2C(CCCO2)=C1C=O | C11H12O3
reactant | boron tribromide | 67.5 mmol, 1M, 67.5 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 625 mL | C(Cl)Cl | CH2Cl2
product | 6-hydroxy-3,4-dihydrobenzopyran-5 -carboxaldehyde | 22.46 g, 80.8% | OC1=CC=C2C(CCCO2)=C1C=O | C10H10O3
